US08563582B2
N-((1R,3S)-3-Isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)-3-methoxytetrahydro-2H-pyran-4-amine
To a solution of (1R,3S)-3-isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentanamine (51.2 mg, 0.134 mmol), 3-methoxytetrahydro-4H-pyran-4-one (70 mg, 0.40 mmol) and triethylamine (0.0374 mL, 0.269 mmol) in dry methylene chloride (5.0 mL, 0.078 mol) was treated with sodium triacetoxyborohydride (85.4 mg, 0.403 mmol) at room temperature under N2 overnight. The reaction was quenched with aqueous NaHCO3 and diluted with methylene chloride. The organic layer was separated and the aqueous layer was extracted with methylene chloride three times. The combined extracts were dried over MgSO4, filtered and evaporated under reduced pressure. The crude product (90 mg) was passed through a short silica gel pad (30:70 MeOH/EtOAc). The filtrate was concentrated and separated by chiral HPLC to give two isomers: first isomer 26.3 mg; second isomer: 17.3 mg. LC-MS calculated for C26H36F3N3O3: (M+H) 496; found 496.2 for both isomers.

reactant | (1R,3S)-3-isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentanamine | 0.134 mmol, 51.2 mg | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCC(=CC1)C1=NC=CC(=C1)C(F)(F)F | C20H26F3N3O
reactant | 3-methoxytetrahydro-4H-pyran-4-one | 0.40 mmol, 70 mg | COC1COCCC1=O | C6H10O3
reactant | triethylamine | 0.269 mmol, 0.0374 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 0.078 mol, 5.0 mL | C(Cl)Cl | CH2Cl2
reactant | sodium triacetoxyborohydride | 0.403 mmol, 85.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | N-((1R,3S)-3-Isopropyl-3-{[4-(trifluoromethyl)-3′,6′-dihydro-2,4′-bipyridin-1′(2′H)-yl]carbonyl}cyclopentyl)-3-methoxytetrahydro-2H-pyran-4-amine | C(C)(C)[C@]1(C[C@@H](CC1)NC1C(COCC1)OC)C(=O)N1CCC(=CC1)C1=NC=CC(=C1)C(F)(F)F | C26H36F3N3O3
